US06699896B1
2-{3,5-Dibromo-4′-[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-biphenyl-4-yloxy}-3-phenyl-propionic Acid Methyl Ester
The title compound was prepared from 3,5-dibromo-4′-[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-biphenyl-4-ol, and 3-phenyllactic acid methyl ester in substantially the same manner, as described in Example 7, and was obtained as a white solid, mp 70-72° C.; MS m/e 713 (M+);

reactant | 3,5-dibromo-4′-[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-biphenyl-4-ol | BrC=1C=C(C=C(C1O)Br)C1=CC=C(C=C1)C=1N=C(OC1C)C1=CC=C(C=C1)C(F)(F)F | C23H14Br2F3NO2
reactant | 3-phenyllactic acid methyl ester | COC(C(O)CC1=CC=CC=C1)=O | C10H12O3
product | 2-{3,5-Dibromo-4′-[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-biphenyl-4-yloxy}-3-phenyl-propionic Acid Methyl Ester | COC(C(CC1=CC=CC=C1)OC1=C(C=C(C=C1Br)C1=CC=C(C=C1)C=1N=C(OC1C)C1=CC=C(C=C1)C(F)(F)F)Br)=O | C33H24Br2F3NO4
